US05130330
(±)-cis-2-(1-Pyrrolidinyl)cyclohexylamine
(±)-cis-2-(1-Pyrrolidinyl)-N-benzoylcyclohexylamine hydrochloride (10 gm) was combined with ethylene glycol (50 ml) and potassium hydroxide (10 gm) and the solution was heated to reflux for 48 hours. The solution was diluted with water (200 ml) and extracted with ether. The ether was removed on a rotary evaporator and the residue was distilled (94° C. at 0.05 mm Hg) to provide the product.

reactant | (±)-cis-2-(1-Pyrrolidinyl)-N-benzoylcyclohexylamine hydrochloride | 10 gm | Cl.N1(CCCC1)[C@@H]1[C@@H](CCCC1)NC(C1=CC=CC=C1)=O
reactant | ethylene glycol | 50 ml | C(CO)O | C2H6O2
reactant | potassium hydroxide | 10 gm | [OH-].[K+]
solvent | water | 200 ml | O | H2O
product | (±)-cis-2-(1-Pyrrolidinyl)cyclohexylamine | N1(CCCC1)[C@@H]1[C@@H](CCCC1)N | C10H20N2
